* Sky130 gain-boosted two-stage folded-cascode OTA reference implementation.
* The first stage is an NMOS-input folded cascode with local PMOS/NMOS
* cascode gain boosters and a low-voltage wide-swing NMOS mirror. The
* second stage is NMOS common source with a PMOS current-source load and
* series-RC Miller compensation. The input-pair length is only 0.5 um;
* gain comes from the topology rather than abnormally long input devices.
* iref is the only external bias: internal current mirrors and MOS replicas
* derive every bias rail, with no supply-divider voltage reference.
.subckt folded_cascode_ota vss iref vdd vinn vinp vout
XREF iref iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=20 nf=4
XTAIL tail iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=92 nf=12

XNBP vbp iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=20 nf=4
XPBP vbp vbp vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=96 nf=12
XNPC vpc iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=20 nf=4
XPPC vpc_hi vpc_hi vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=20 nf=4
* Shift the PMOS cascode bias down without forcing its gm/Id below 10.
RPC vpc_hi vpc 1k
* Low-voltage NMOS cascode-gate generator.
XBCUR pcb iref vss vss sky130_fd_pr__nfet_01v8 l=1.4 w=30 nf=2
XPCB pcb pcb vdd vdd sky130_fd_pr__pfet_01v8 l=1.5 w=150 nf=10
XPB2 ncb pcb vdd vdd sky130_fd_pr__pfet_01v8 l=1.5 w=150 nf=10
* Source degeneration adds the required cascode-gate level without forcing
* the diode NMOS into the gm/Id < 5 strong-inversion corner.
XNCB ncb ncb ncbs vss sky130_fd_pr__nfet_01v8 l=1.5 w=50 nf=5
RNCB ncbs vss 4.8k
* Auxiliary-amplifier bias rail.
XBAUX pda iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=8 nf=2
XPDA pda pda vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=64 nf=16
* Low-overdrive PMOS mirror for the NMOS-cascode auxiliary amplifier.
* The larger diode device keeps the tail sources saturated at 1.62 V/125 C.
XNTAUX ntb iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=8 nf=2
XPNTB ntb ntb vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=128 nf=16

* Current-derived cascode-source replicas.  Both branches ultimately draw
* mirrored current from iref; no supply-divider voltage reference is used.
XNRBI nref iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=2 nf=1
XNRS vdd ncb nref vss sky130_fd_pr__nfet_01v8 l=0.5 w=8 nf=2
XPRBI pref pda vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=8 nf=2
XPRS vss vpc pref vdd sky130_fd_pr__pfet_01v8 l=0.5 w=256 nf=32

XINP p1 vinn sinp vss sky130_fd_pr__nfet_01v8 l=0.5 w=200 nf=20
XINN p2 vinp sinn vss sky130_fd_pr__nfet_01v8 l=0.5 w=200 nf=20
RINP sinp tail 100
RINN sinn tail 100
XFP p1 vbp vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=384 nf=48
XFN p2 vbp vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=390 nf=48
XFCP mirror vpc p1 vdd sky130_fd_pr__pfet_01v8 l=0.5 w=144 nf=18
XFCN nfirst gpc p2 vdd sky130_fd_pr__pfet_01v8 l=0.5 w=144 nf=18

* Low-voltage wide-swing cascoded NMOS mirror load.
XMD mirror ncb n1 vss sky130_fd_pr__nfet_01v8 l=0.5 w=18 nf=3
XMO nfirst gnc n2 vss sky130_fd_pr__nfet_01v8 l=0.5 w=54 nf=9
XCD n1 mirror vss vss sky130_fd_pr__nfet_01v8 l=1 w=24 nf=4
XCO n2 mirror vss vss sky130_fd_pr__nfet_01v8 l=1 w=24 nf=4

* PMOS-cascode gain boost: matched current-biased MOS source followers move
* the high folding-node and replica voltages into the PMOS-input auxiliary
* amplifier's common-mode range without using a resistive divider.
XHS1I hs1 iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=3.2 nf=1
XHS1F vdd p2 hs1 vss sky130_fd_pr__nfet_01v8 l=0.5 w=0.5 nf=1
XHR1I hr1 iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=3.2 nf=1
XHR1F vdd pref hr1 vss sky130_fd_pr__nfet_01v8 l=0.5 w=0.5 nf=1
XPT apt pda vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=20 nf=4
XPA pgd hr1 apt vdd sky130_fd_pr__pfet_01v8 l=1 w=128 nf=16
XPB gpc hs1 apt vdd sky130_fd_pr__pfet_01v8 l=1 w=128 nf=16
XPMA pgd pgd vss vss sky130_fd_pr__nfet_01v8 l=2 w=3 nf=1
XPMB gpc pgd vss vss sky130_fd_pr__nfet_01v8 l=2 w=0.6 nf=1

* NMOS-cascode gain boost: regulate the lower cascode source against
* a supply-tracking low-side reference.
* Matched iref-derived resistor shifts lower both auxiliary inputs without
* disturbing the main ncb rail, preserving cascode headroom at mixed corners.
XNRD nrh iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=2 nf=1
XN2D n2h iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=2 nf=1
RNRD nref nrh 20k
RN2D n2 n2h 20k
XNT1 ant ntb vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=880 nf=55
XNT2 ant ntb vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=880 nf=55
XNA ngd nrh ant vdd sky130_fd_pr__pfet_01v8 l=0.5 w=60 nf=12
XNB gnc n2h ant vdd sky130_fd_pr__pfet_01v8 l=0.5 w=60 nf=12
XNMA ngd ngd vss vss sky130_fd_pr__nfet_01v8 l=2 w=48 nf=6
XNMB gnc ngd vss vss sky130_fd_pr__nfet_01v8 l=2 w=59 nf=6
* Keep both gain-boost loops active at DC while AC-grounding their outputs
* below the main-loop UGB.  The asymmetric compensation reflects the much
* slower PMOS booster and avoids the original pair of area-heavy 10 pF caps.
CGPC gpc vdd 3p
CGNC gnc vss 9p

* Wideband NMOS common-source output stage with an iref-derived PMOS load.
XOBN obias iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=80 nf=8
XOBP obias obias vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=96 nf=24
XOUT nout nfirst vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=120 nf=22
XOUTC vout ncb nout vss sky130_fd_pr__nfet_01v8 l=0.15 w=120 nf=22
XLOAD vout obias vdd vdd sky130_fd_pr__pfet_01v8 l=0.6 w=320 nf=48
CCOMP vout comp 1.37p
RCOMP comp nfirst 700
.ends folded_cascode_ota
