* Sky130 fully differential OTA-C (Gm-C) biquad, f0 = 2 MHz Butterworth low-pass.
* Three source-degenerated signal transconductors, a stronger damping Gm,
* one transistor-level CMFB loop per state pair, a shared bias core, and the
* grounded capacitor network that realizes the second-order section.
* The first state is a true band-pass output (zero DC gain); the second state
* is the low-pass output.  Q=sqrt(C1/C2)*(Gsignal/Gdamping).

* Degenerated fully differential Gm core; load gates come from the node CMFB.
.subckt gmc_core vss vdd vbn vctrl inp inn outp outn
XTA ta vbn vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=2
XTB tb vbn vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=2
RDEG ta tb 19.1k
XA outn inp ta vss sky130_fd_pr__nfet_01v8_lvt l=0.5 w=96 nf=8
XB outp inn tb vss sky130_fd_pr__nfet_01v8_lvt l=0.5 w=96 nf=8
XLA outn vctrl vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=96 nf=8
XLB outp vctrl vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=96 nf=8
.ends gmc_core

* The band-pass state sums an additional damping current.  Its two signal Gm
* cells therefore use about 1.3x PMOS load width while retaining the same NMOS Gm.
.subckt gmc_core_bp vss vdd vbn vctrl inp inn outp outn
XTA ta vbn vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=2
XTB tb vbn vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=2
RDEG ta tb 19.1k
XA outn inp ta vss sky130_fd_pr__nfet_01v8_lvt l=0.5 w=96 nf=8
XB outp inn tb vss sky130_fd_pr__nfet_01v8_lvt l=0.5 w=96 nf=8
XLA outn vctrl vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=124 nf=10
XLB outp vctrl vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=124 nf=10
.ends gmc_core_bp

* Damping Gm shares the first state's PMOS load bank.  Omitting a second load
* pair avoids adding another common-mode actuator to the same integrating node.
.subckt gmc_sink vss vbn inp inn outp outn
XTA ta vbn vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=2
XTB tb vbn vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=2
RDEG ta tb 8k
XA outn inp ta vss sky130_fd_pr__nfet_01v8_lvt l=0.5 w=96 nf=8
XB outp inn tb vss sky130_fd_pr__nfet_01v8_lvt l=0.5 w=96 nf=8
.ends gmc_sink

* Common-mode feedback amplifier for one filter node pair.
.subckt cmfb_amp vss vdd vbn vocm vsense vctrl
XCTA cta vbn vss vss sky130_fd_pr__nfet_01v8 l=1 w=8 nf=2
XCTB ctb vbn vss vss sky130_fd_pr__nfet_01v8 l=1 w=8 nf=2
RCM cta ctb 5k
XC1 cd vsense cta vss sky130_fd_pr__nfet_01v8_lvt l=0.5 w=24 nf=4
XC2 vctrl vocm ctb vss sky130_fd_pr__nfet_01v8_lvt l=0.5 w=24 nf=4
XCL1 cd cd vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=48 nf=4
XCL2 vctrl vctrl vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=48 nf=4
CCM vctrl vdd 500f
.ends cmfb_amp

* The band-pass state sums three NMOS Gm currents into two PMOS load banks.
* A 3:1 load/replica width ratio centers that CMFB loop at zero input error.
.subckt cmfb_amp_bp vss vdd vbn vocm vsense vctrl
XCTA cta vbn vss vss sky130_fd_pr__nfet_01v8 l=1 w=8 nf=2
XCTB ctb vbn vss vss sky130_fd_pr__nfet_01v8 l=1 w=8 nf=2
RCM cta ctb 5k
XC1 cd vsense cta vss sky130_fd_pr__nfet_01v8_lvt l=0.5 w=24 nf=4
XC2 vctrl vocm ctb vss sky130_fd_pr__nfet_01v8_lvt l=0.5 w=24 nf=4
XCL1 cd cd vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=40 nf=5
XCL2 vctrl vctrl vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=40 nf=5
CCM vctrl vdd 100f
.ends cmfb_amp_bp

.subckt fd_ota_c_biquad vss iref vdd vinp vinn vocm vbpp vbpn voutp voutn
* shared bias core: one external 20 uA reference
XREF iref iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=2

* input transconductor: vin -> bp node
XGIN vss vdd iref vc1 vinp vinn vbpp vbpn gmc_core_bp
* forward integrator: bp -> out
XGF  vss vdd iref vc2 vbpp vbpn voutp voutn gmc_core
* feedback transconductor: out -> bp (crossed = negative)
XGB  vss vdd iref vc1 voutp voutn vbpn vbpp gmc_core_bp
* damping transconductor: bp -> bp (crossed = lossy)
XGQ  vss iref vbpp vbpn vbpn vbpp gmc_sink

* one CMFB loop per filter node pair
RS1A vbpp sense1 1Meg
RS1B vbpn sense1 1Meg
XCM1 vss vdd iref vocm sense1 vc1 cmfb_amp_bp
RS2A voutp sense2 1Meg
RS2B voutn sense2 1Meg
XCM2 vss vdd iref vocm sense2 vc2 cmfb_amp

* second-order capacitor network
C1P vbpp vss 8p
C1N vbpn vss 8p
C2P voutp vss 4p
C2N voutn vss 4p
.ends fd_ota_c_biquad
